US08183255B2
Intermediate B1(v): Ethyl 5-(chlorocarbonyl)-3-{[2-(ethylamino)-5-fluoropyrimidin-4-yl]amino}-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate
To a suspension of B1(iv) (4.43 g, 9.6 mmol) in dioxane (25 mL) was added HCl (20 mL, 4M in dioxane). The reaction was stirred at room temperature for 2 h then concentrated. To a solution of the HCl salt of ethyl 3-{[2-(ethylamino)-5-fluoropyrimidin-4-yl]amino}-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate (1.27 g, 2.7 mmol) in CH2Cl2 (40 mL) was added DIPEA (1.57 g, 12.1). The reaction was cooled to −78° C. and triphosgene (0.48 g, 0.6 mmol) was added in a solution of CH2Cl2 (10 mL) with an addition funnel over 15 min. The reaction was quenched at −78° C. with water then warmed to room temperature. The mixture was made to pH 8-9 with NaHCO3 and extracted with CH2Cl2 (2×15 mL). The combined extracts were washed with brine (15 mL) then dried, filtered and concentrated. The crude material was purified by silica gel column chromatography using 0-3% 7N NH3/MeOH in CH2Cl2 to give the desired compound B1(v) as a white foam (489 mg, 36%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.07 (t, J=7.2 Hz, 3H), 1.33 (t, J=7.2 Hz, 3H), 1.78-1.84 (m, 6H), 3.12-3.28 (m, 2H), 4.42 (q, J=7.2 Hz, 2H), 4.78 (s, 2H), 6.69-6.97 (m, 1H), 7.77-8.08 (m, 1H), 10.41 (s, 1H). Mass spectrum: Calcd for C17H22ClFN7O3 (M+H): 426. Found 426.

reactant | HCl | 4M, 20 mL | Cl | ClH
reactant | ethyl 3-{[2-(ethylamino)-5-fluoropyrimidin-4-yl]amino}-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate | 2.7 mmol, 1.27 g | C(C)NC1=NC=C(C(=N1)NC=1C2=C(N(N1)C(=O)OCC)C(NC2)(C)C)F | C16H22FN7O2
reactant | DIPEA | 1.57 g | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.6 mmol, 0.48 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(chlorocarbonyl)-3-{[2-(ethylamino)-5-fluoropyrimidin-4-yl]amino}-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate | ClC(=O)N1C(C=2N(N=C(C2C1)NC1=NC(=NC=C1F)NCC)C(=O)OCC)(C)C | C17H21ClFN7O3
